US06235731B1
4) Synthesis of 5-(tert-butyldiphenylsiloxymethyl)-2-(3-phenylpropan-1-yl)-2,3-dihydro-1H-isoindole
To a solution of 5.867 g (14.429 mM) of [4-(tert-butyldiphenylsiloxymethyl)-2-hydroxymethylphenyl]methanol and 12.6 ml (72.1 mM) of N,N-diisopropylethylamine in 100 ml of acetonitrile was added a solution of 3.47 g (30.3 mM) of methanesulfonyl chloride in 10 ml of acetonitrile dropwise with ice-cooling and the mixture was stirred at 0° C. for 0.5 hour. To this reaction mixture was added 2.15 g (15.9 mM) of 3-phenylpropylamine and the mixture was stirred at 80° C. overnight. The solvent was then distilled off under reduced pressure and the residue was diluted with aqueous solution of sodium hydrogen carbonate and extracted with 3 portions of ethyl acetate. The pooled organic layer was dried over MgSO4 and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=6/1 to 3/1) to provide the title compound.

reactant | [4-(tert-butyldiphenylsiloxymethyl)-2-hydroxymethylphenyl]methanol | 14.429 mM, 5.867 g | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CC1=CC(=C(C=C1)CO)CO | C25H30O3Si
reactant | N,N-diisopropylethylamine | 72.1 mM, 12.6 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methanesulfonyl chloride | 30.3 mM, 3.47 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3-phenylpropylamine | 15.9 mM, 2.15 g | C1(=CC=CC=C1)CCCN | C9H13N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 5-(tert-butyldiphenylsiloxymethyl)-2-(3-phenylpropan-1-yl)-2,3-dihydro-1H-isoindole | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CC=1C=C2CN(CC2=CC1)CCCC1=CC=CC=C1 | C34H39NOSi
